US06531492B1
2-[5-(1-Cyclohexenyl)-3-trifluoromethyl-pyrazol-1-yl]-5-methanesulfonyl-pyridine (Step 2)
2-Hydrazino-5-(methylsulfonyl)pyridine hydrochloride (128 mg, 0.54 mmol) and 4,4,4-trifluoro-1-(1-cyclohexenyl)-1,3-butanedione (100 mg, 0.45 mmol) were mixed in ethanol (8 ml). The resulting reaction mixture was heated at reflux temperature for 35 hours. The solvent was then removed in vacuo, and the residue was partitioned between EtOAc and water. The organic layer was washed with brine and concentrated in vacuo. The product was purified by flash chromatography using methylene chloride to give the title compound (30.6 mg, 18%).

reactant | 2-Hydrazino-5-(methylsulfonyl)pyridine hydrochloride | 0.54 mmol, 128 mg | Cl.N(N)C1=NC=C(C=C1)S(=O)(=O)C
reactant | 4,4,4-trifluoro-1-(1-cyclohexenyl)-1,3-butanedione | 0.45 mmol, 100 mg | FC(C(CC(=O)C1=CCCCC1)=O)(F)F | C10H11F3O2
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 2-[5-(1-Cyclohexenyl)-3-trifluoromethyl-pyrazol-1-yl]-5-methanesulfonyl-pyridine | 30.6 mg, 18% | C1(=CCCCC1)C1=CC(=NN1C1=NC=C(C=C1)S(=O)(=O)C)C(F)(F)F | C16H16F3N3O2S
